US05256781
The preparation of 4'-[[(1,2-dihydro-2-oxo-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid.
To a solution of 0.26 g of 4'-[[(1,2-dihydro-2-oxo-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester in 5.0 mL of methanol was added 15 mL of 0.1N aqueous sodium hydroxide. The solution was warmed to ~90° C. for 3 days. After cooling to room temperature the solution was neutralized with 0.1N HCl and the resulting precipitate was filtered off and washed with water. After drying, the solid was purified on silica gel chromatography to yield 0.160 g (64%) of the desired product. The product was characterized as its sodium salt: 1H NMR (DMSO-d6, 400 MHz) δ 10.69 (s, 1H), 9.00 (t, J=5.8 Hz, 1H), 8.11 (d, J=8.0 Hz, 1H), 7.52 (m, 1H), 7.41 (d, J=8.2 Hz, 2H), 7.28 (m, 3H), 7.14 (m, 5H), 4.68 (d, J=5.6 Hz, 2H); negative FAB MS m/e 392 (M-H); 370 (M-Na). Anal. Calcd for C22H16N3NaO3.1H2O: C, 64.23; H, 4.41; N, 10.21. Found: C, 64.43; H, 4.19; N, 9.82.

reactant | 4'-[[(1,2-dihydro-2-oxo-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester | 0.26 g | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CNC1=NC(NC2=CC=CC=C12)=O | C23H19N3O3
reactant | sodium hydroxide | 0.1N, 15 mL | [OH-].[Na+]
reactant | HCl | 0.1N | Cl | ClH
solvent | methanol | 5.0 mL | CO | CH4O
product | 4'-[[(1,2-dihydro-2-oxo-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid | 0.160 g, 64% | O=C1NC2=CC=CC=C2C(=N1)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C22H17N3O3
